Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ male with no past medical history 
who initially presented to an OSH ER with complaint of abdominal 
pain and emesis. ___ night, the patient reports drinking 
heavily (7 beers). ___, the patient
woke up and starting vomiting forcefully and repeatedly. He 
reports at least 15 bouts of emesis, multiple with hematemesis. 
Reports initially vomiting bright red blood that then 
transitioned to coffee ground emesis. Had onset of nausea and 
sharp upper abdominal pain at this time. No fevers, chills, 
shortness of breath, chest pain, diarrhea. The patient then 
presented to an outside hospital ER and underwent CT 
abdomen/pelvis, which demonstrated extraluminal air adjacent to 
the distal esophagus but no effusion. HE was transferred to 
___
and underwent initial CXR demonstrating pneumomediastinum but no 
pleural effusions. Thoracic surgery was consulted due to concern 
for esophageal perforation. 

 
Past Medical History:
PAST MEDICAL HISTORY: ADHD

PAST SURGICAL HISTORY: right second finger surgery
 
Social History:
___
Family History:
reviewed and negative
 
Physical Exam:
Admission Physical Exam:

Vitals: 97.9  69  115/54  18  100% RA
Gen: A&Ox3, well-appearing male, in NAD
HEENT: No scleral icterus, mucus membranes moist
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

 
Discharge Physical Exam:

Vitals: 98.3  74  113/72  18  98%
Gen: A&Ox3, well-appearing male, in NAD
HEENT: No scleral icterus, mucus membranes moist
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 12:46AM BLOOD WBC-13.1* RBC-4.03* Hgb-13.0* Hct-37.6* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-13.2 RDWSD-45.4 Plt ___

___ 12:46AM BLOOD Neuts-82.9* Lymphs-9.3* Monos-7.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.85* AbsLymp-1.21 
AbsMono-0.93* AbsEos-0.00* AbsBaso-0.02

___ 12:46AM BLOOD Glucose-98 UreaN-12 Creat-0.9 Na-135 
K-5.5* Cl-103 HCO3-19* AnGap-19

___ 12:46AM BLOOD ALT-19 AST-37 AlkPhos-37* TotBili-0.8

___ 12:46AM BLOOD Lipase-17

___ 01:08AM BLOOD Lactate-1.2 K-4.3 

=============
MICROBIOLOGY
=============

___ Blood cultures - pending 

========
IMAGING
========

___ CXR:
IMPRESSION:  
There is pneumomediastinum as well as gas in the imaged portion 
of the neck. 

___ Esophagogram:
IMPRESSION:  
No evidence of esophageal leak 

___ CXR:
IMPRESSION:  
Appearance of the pneumomediastinum has not changed. 
 

==============
DISCHARGE LABS
==============
___ 08:50AM BLOOD WBC-13.2* RBC-4.20* Hgb-13.8 Hct-40.0 
MCV-95 MCH-32.9* MCHC-34.5 RDW-13.5 RDWSD-47.5* Plt ___

___ 08:50AM BLOOD Neuts-68.0 ___ Monos-10.9 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-8.94* AbsLymp-2.62 
AbsMono-1.44* AbsEos-0.02* AbsBaso-0.07

 
Brief Hospital Course:
Mr. ___ was admitted to the Thoracic Surgery Service for 
further evaluation and management of suspected esophageal 
perforation in the setting of significant emesis and small 
volume hematemesis. He was initially kept NPO and started on 
maintenance fluids. CXR on arrival demonstrated significant 
pneumomediastinum, thus prompting concern for Boerhaave syndrome 
given history of repeated hematemesis and complaints of 
significant chest pain. He thus underwent barium swallow study, 
which was negative for esophageal leak. Repeat CXR the following 
morning demonstrated stable pneumomediastinum, and it was thus 
felt that mediastinal air may have resulted from small bleb 
rupture during episodes of emesis. Additionally, patient 
endorses significant improvement in pain with no further 
episodes of nausea or emesis. He was thus started on a clear 
liquid diet, which was tolerated without issue.

On the evening of HD1, patient was tolerating PO intake, was 
voiding and ambulating without issue, his pain was well 
controlled without the need for pain medication, and he remained 
afebrile and hemodynamically stable. He was thus deemed ready 
for discharge home with instructions for slow diet advancement 
over the course of several days. He will undergo repeat CXR 
prior to follow up appointment with Dr. ___ in two weeks 
time to assess resolution of pneumomediastinum.
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
esophageal tear caused by excessive vomiting ___ 
tear)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the ___ 
for observation after presenting with significant vomiting 
containing blood. You had a chest x-ray which showed air in the 
soft tissues of your chest concerning for a tear in your 
esophagus. However, you had a swallow study that showed there 
was no actual hole (perforation) of your esophagus. The air seen 
on your chest x-ray will slowly be resorbed on its own. It is 
now safe for you to slowly resume your diet and be discharged 
home.

It was a pleasure taking care of you here at ___. Please do 
not hesitate to contact us if you have any additional questions 
or concerns.
 
Followup Instructions:
___